US08202868B2
c.3.1: (R)-(−)-1-acetoxy-3-bromo-2-methyl-propane
6 g of (R)-(−)-3-bromo-2-methyl-1-propanol (39.2 mmol) were stirred in 6 ml of pyridine at room temperature. 4.08 g of acetic anhydride (43.1 mmol) were added and the reaction mixture was stirred for 4 h at 70° C. Stirring was continued for 16 h at room temperature. 40 ml of water and 60 ml of ethyl acetate were added to the reaction mixture. The organic layer was separated and washed with a further portion of water, then dried over magnesium sulfate, filtered, and evaporated under vacuum, whereby 6.03 g of the title compound were obtained.

reactant | (R)-(−)-3-bromo-2-methyl-1-propanol | 39.2 mmol, 6 g | BrC[C@@H](CO)C | C4H9BrO
reactant | acetic anhydride | 43.1 mmol, 4.08 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 40 ml | O | H2O
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (R)-(−)-1-acetoxy-3-bromo-2-methyl-propane | 6.03 g | C(C)(=O)OC[C@H](CBr)C | C6H11BrO2
